US07572805B2
Part C. N,N,4-Triethyl-2-(trifluoromethyl)benzamide
To a solution of 4-chloro-N,N-diethyl-2-(trifluoromethyl)benzamide (5.04 g, 18 mmol) in 100 mL of N,N-dimethylformamide was added potassium carbonate (6.2 g, 45 mmol) and diethylzinc (29.5 mL of a 1.1 M solution in toluene, 32.4 mmol). The mixture was degassed and then there was added POPd (Combiphos) (0.27 g, 0.54 mmol). The resulting solution was heated at 120° C. in a sealed tube for 18 h. The mixture was allowed to cool and was diluted with water and extracted with ethyl acetate. The organics were washed with water and brine, dried (MgSO4) and concnentrated in vacuo. The residue was purified (ISCO, elution with 0-25% EtOAc/hexane) to afford 3.7 g (75%) of the title compound as an oil. LRMS (ESI): 274.2 (M+H)+.

reactant | 4-chloro-N,N-diethyl-2-(trifluoromethyl)benzamide | 18 mmol, 5.04 g | ClC1=CC(=C(C(=O)N(CC)CC)C=C1)C(F)(F)F | C12H13ClF3NO
reactant | potassium carbonate | 45 mmol, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylzinc | C(C)[Zn]CC
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N,4-Triethyl-2-(trifluoromethyl)benzamide | 3.7 g, 75% | C(C)N(C(C1=C(C=C(C=C1)CC)C(F)(F)F)=O)CC | C14H18F3NO
